US07332501B2
1′-[(6-Chloro-1-{[(3S)-1-methylpiperidin-3-yl]methyl}-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine]
A solution of 1′-({6-chloro-1-[(3S)-piperidin-3-ylmethyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidine] in MeOH was treated with aq. H2CO (1.5 eq), AcOH (1.1 eq) and stirred for 15 min at room temperature, then treated with NaCNBH3 (1.1 eq) and stirred at room temperature for 1 h. Concentration and purification by preparative HPLC the desired product. ES-MS m/e (%): 478.2(M+H+).

reactant | 1′-({6-chloro-1-[(3S)-piperidin-3-ylmethyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CN(C2=C1)C[C@@H]1CNCCC1)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C27H30ClN3O2
reactant | AcOH | 1.1 eq | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 1.1 eq | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
product | 1′-[(6-Chloro-1-{[(3S)-1-methylpiperidin-3-yl]methyl}-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CN(C2=C1)C[C@@H]1CN(CCC1)C)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C28H32ClN3O2
